US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(4-nitrophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (150 mg, 0.495 mmol) and 4-nitrophenol were reacted as starting materials at 150° C. for 15 hours and post-treatment was then conducted, whereby the title compound was obtained as a pale yellow crystalline powder (146.1 mg, 74.1%). Melting point: 197.7-201.1° C. (ethyl acetate-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.495 mmol, 150 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
product | 3,4-bis(4-methoxyphenyl)-6-(4-nitrophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=CC=C(C=C1)[N+](=O)[O-] | C24H19N3O5
